US04663333
Preparation of 4-[[3,5-bis(1,1-dimethylethyl)-4-hydroxy phenyl]thio]butanoic acid
Potassium hydroxide flakes (2.52 g, 0.045 mole) were added to a clear solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (3.57 g, 0.015 mole) and ethyl-4-bromobutyrate (3.23 g, 0.0165 mole) in acetone (10 ml). Water (20 ml) was added and the solution stirred for 1.5 hours, the solvent removed on a rotary evaporator and water (50 ml) added. The organic layer was extracted with ethyl ether (3×75 ml). The aqueous layer was acidified with concentrated hydrochloric acid, extracted with ethyl ether (2×50 ml), washed with water (50 ml), dried over sodium sulfate, filtered and the solvents removed, leaving an oil, which was purified by chromatography on silica, recrystallized from ethyl ether/Skellysolve B, filtered and the product dried in vacuo at room temperature for 12 hours, m.p. ca. 112°-113.5° C.

reactant | Potassium hydroxide | [OH-].[K+]
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.015 mole, 3.57 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | ethyl-4-bromobutyrate | 0.0165 mole, 3.23 g | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | Water | 20 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-[[3,5-bis(1,1-dimethylethyl)-4-hydroxy phenyl]thio]butanoic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCCC(=O)O | C18H28O3S
